US07622504B2
A 542 μL (3.63 mmol) sample of DBU was added to a solution of 500 mg (3.30 mmol) of 4-chlorophenylacetonitrile and 493 μL (3.63 mmol) of diethyloxalate in 1.6 mL of acetonitrile. After ca. 10 min, the mixture was diluted with ethyl acetate and acidified with dilute HCl. The organic phase was washed with three portions of water, dried and stripped to an oily solid. Trituration with hexane/butyl chloride yielded 414 mg, m.p. 135-136° C. A second crop of 35 mg gave a total yield of 54% of ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate.

reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-chlorophenylacetonitrile | 3.30 mmol, 500 mg | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | diethyloxalate | 3.63 mmol, 493 μL | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | HCl | Cl | ClH
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate | yield of 54% | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C#N | C12H10ClNO3
